US07314888B1
In 10 ml of ethanol is dissolved 1.08 g of ethyl 3-{5-[[(2-amino-2-oxoethoxy)imino](2,4-diisobutoxyphenyl)methyl]-2-isobutoxyphenyl}propanoate, to which is added 1.1 ml of 5 mol/L sodium hydroxide solution. The mixture is stirred at ambient temperature for 3 hours. Chloroform and water are added to the reaction mixture, pH is adjusted to 2 with 6 mol/L hydrochloric acid, and the organic layer is separated. The organic layer thus obtained is washed with water and saturated aqueous solution of sodium chloride successively and dried over anhydrous magnesium sulfate, and the solvent is distilled off under reduced pressure. The residue thus obtained is purified by silica gel column chromatography (eluent; chloroform:ethanol=10:1) to obtain 0.68 g of 3-{5-[[(2-amino-2-oxoethoxy)imino](2,4-diisobutoxyphenyl)methyl]-2-isobutoxyphenyl}propanoic acid as a white foaming product.

reactant | ethyl 3-{5-[[(2-amino-2-oxoethoxy)imino](2,4-diisobutoxyphenyl)methyl]-2-isobutoxyphenyl}propanoate | 1.08 g | NC(CON=C(C=1C=CC(=C(C1)CCC(=O)OCC)OCC(C)C)C1=C(C=C(C=C1)OCC(C)C)OCC(C)C)=O | C32H46N2O7
reactant | sodium hydroxide | 5 mol/L, 1.1 ml | [OH-].[Na+]
reactant | Chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | hydrochloric acid | 6 mol/L | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 3-{5-[[(2-amino-2-oxoethoxy)imino](2,4-diisobutoxyphenyl)methyl]-2-isobutoxyphenyl}propanoic acid | 0.68 g | NC(CON=C(C=1C=CC(=C(C1)CCC(=O)O)OCC(C)C)C1=C(C=C(C=C1)OCC(C)C)OCC(C)C)=O | C30H42N2O7
